US07217848B2
Synthesis of Ligand C, Ph2P(CH2)3P(Ph)(CH2)3P(Ph)Cy
The procedure for the Synthesis of HexPh4P3Pr above was followed using (C6H5)2P(CH2)3P(C6H5)(CH2)3Cl (1.73 g, 4.15 mmol), Phenylcyclohexylphosphine (1.01 g, 6.81 mmol) and lithium diisopropylamide (4.4 ml, 8.8 mmol). Yield: 1.89 g (81.4%). 31P{1H} NMR (CDCl3, 122 MHz, δppm: —CH2P(Cyhex)Ph: −11.67 and −11.79; Ph2PCH2—: −16.52; —CH2P(Ph)CH2— −26.21 and 26.34 (>98% pure).

reactant | (C6H5)2P(CH2)3P(C6H5)(CH2)3Cl | 4.15 mmol, 1.73 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)CCCP(C1=CC=CC=C1)CCCCl | C24H27ClP2
reactant | Phenylcyclohexylphosphine | 6.81 mmol, 1.01 g | C1(=CC=CC=C1)PC1CCCCC1 | C12H17P
reactant | lithium diisopropylamide | 8.8 mmol, 4.4 ml | C(C)(C)[N-]C(C)C.[Li+]
product | Ph2P(CH2)3P(Ph)(CH2)3P(Ph)Cy | P(C1=CC=CC=C1)(C1=CC=CC=C1)CCCP(C1=CC=CC=C1)CCCP(C1=CC=CC=C1)C1CCCCC1 | C36H43P3
